US07176310B1
M. 2-Methylsulfanyl-4-(2-(phenylamino)phenylamino)pyrimidine-5-carboxylic acid (4-fluorophenyl)amide
To a mixture of 4-chloro-2-methylsulfanylpyrimidine-5-carboxylic acid (4-fluorophenyl)amide (100 mg, 0.34 mmol) in dichloromethane (10 mL) was added N-phenyl-benzene-1,2-diamine (148 mg, 0.4 mmol) followed by N-methylmorpholine-bound resin (300 mg). The mixture was stirred at an ambient temperature for 16 h and was then heated at reflux for an additional 2 h. Methanol (5 mL) was added and the mixture was stirred at an ambient temperature for 40 h. The mixture was filtered through a plug of celite and the filter plug was washed with hot ethyl acetate (25 mL). The resulting solution was treated with hexanes to precipitate 70 mg (0.16 mmol, 47% yield) of the titled compound as a purple-red solid. 1H NMR (300 MHz, DMSO-d6) δ 10.64 (s, 1H), 10.29 (s, 1H), 8.74 (s, 1H), 8.10 (m, 1H), 7.58 (m, 3H), 7.25–7.05 (m, 7H), 6.79–6.679(m, 3H), 2.5(s, 3H); MS (EI) m/z 444.05 (M−H)−.

reactant | 4-chloro-2-methylsulfanylpyrimidine-5-carboxylic acid (4-fluorophenyl)amide | 0.34 mmol, 100 mg | FC1=CC=C(C=C1)NC(=O)C=1C(=NC(=NC1)SC)Cl | C12H9ClFN3OS
reactant | N-phenyl-benzene-1,2-diamine | 0.4 mmol, 148 mg | C1(=CC=CC=C1)NC=1C(=CC=CC1)N | C12H12N2
reactant | N-methylmorpholine | 300 mg | CN1CCOCC1 | C5H11NO
reactant | Methanol | 5 mL | CO | CH4O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-Methylsulfanyl-4-(2-(phenylamino)phenylamino)pyrimidine-5-carboxylic acid (4-fluorophenyl)amide | 0.16 mmol, 70 mg, 47% yield | FC1=CC=C(C=C1)NC(=O)C=1C(=NC(=NC1)SC)NC1=C(C=CC=C1)NC1=CC=CC=C1 | C24H20FN5OS
